### PR TITLE
[Merged by Bors] - refactor(Computability): file for state transition systems

### PR DESCRIPTION
**Pull request by BoltonBailey**
This PR makes a new file to contain content having to do with state transition systems defined by a function `σ → Option σ`. This content was previously split over `PostTuringMachine.lean` and `TMComputable.lean`, but since these definitions don't only apply to Turing machines in particular, it seems sensible to refactor them and remove them from the `Turing` namespace and put them in a new `StateTransition` namespace.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Computability/TMToPartrec.lean [hunk 1]
```diff
@@ -33,6 +33,8 @@ open Function (update)
 
 open Relation
 
+open StateTransition
```
Comment (YaelDillies) [inline Mathlib/Computability/TMToPartrec.lean]:
```suggestion
open Relation StateTransition
```

File: Mathlib/Computability/TMToPartrec.lean [hunk 2]
```diff
@@ -930,7 +932,7 @@ theorem tr_eval (c v) : eval (TM2.step tr) (init c v) = halt <$> Code.eval c v :
     obtain ⟨v', hv, rfl⟩ := hc₂
     exact ⟨_, hv, hc₁.symm⟩
   · rintro ⟨v', hv, rfl⟩
-    have := Turing.tr_eval (b₁ := Cfg.halt v') tr_respects h₁
+    have := StateTransition.tr_eval (b₁ := Cfg.halt v') tr_respects h₁
```
Comment (YaelDillies) [inline Mathlib/Computability/TMToPartrec.lean:937]:
```suggestion
    have := tr_eval (b₁ := Cfg.halt v') tr_respects h₁
```
even maybe?

File: Mathlib/Computability/StateTransition.lean [hunk 3]
```diff
@@ -0,0 +1,299 @@
...
+Copyright (c) 2025 Mario Carneiro. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Mario Carneiro, Pim Spelier, Daan van Gent
+-/
+module
+
+public import Mathlib.Algebra.Order.Group.Nat
+public import Mathlib.Computability.Tape
+public import Mathlib.Data.Finset.Prod
+public import Mathlib.Data.Finset.Option
```
Comment (YaelDillies) [inline Mathlib/Computability/StateTransition.lean]:
```suggestion
public import Mathlib.Data.Finset.Option
public import Mathlib.Data.Finset.Prod
```

File: Mathlib/Computability/StateTransition.lean [hunk 4]
```diff
@@ -0,0 +1,299 @@
...
+public import Mathlib.Data.Fintype.Defs
+public import Mathlib.Data.PFun
```
Comment (YaelDillies) [inline Mathlib/Computability/StateTransition.lean]: Can none of these be made private?

File: Mathlib/Computability/TMToPartrec.lean (hunk 2 above)
Comment (BoltonBailey) [reply Mathlib/Computability/TMToPartrec.lean:937]: Well, since this appears in `theorem tr_eval`, if I write it like that, it thinks it's trying to refer to the theorem itself, and errors.

File: Mathlib/Computability/StateTransition.lean (hunk 4 above)
Comment (BoltonBailey) [reply Mathlib/Computability/StateTransition.lean]: Seems some of them can! Any guidance on whether they should be sorted first alphabetically by module or first by publicness?

Comment (YaelDillies) [reply Mathlib/Computability/StateTransition.lean]: [I asked the question on Zulip](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Mathlib.20has.20moved.20to.20the.20new.20module.20system/near/558491896), and the opinion seems to be in favor of putting all public imports before all private ones

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
